US07319103B2
To a room temperature solution of 2-[5-(6,7-dihydro-5H-1,4,8a-triaza-s-indacen-8-yl)-benzofuran-2-yl]-ethanol (200 mg, 0.91 mmol) in CH2Cl2 (10 ml) was added triethylamine (303 mg, 3 mmol) and methanesulfonyl chloride (525 mg, 4.56 mmol). The mixture was stirred at room temperature for 30 minutes. Water was added to the reaction and the organic layer separated. The aqueous layer was extracted with CH2Cl2 and the combined organic extracts were dried and concentrated to give methanesulfonic acid 2-[5-(6,7-dihydro-5H-1,4,8a-triaza-s-indacen-8-yl)-benzo-furan-2-yl]-ethyl ester, which was used in the next reaction without further purification.

reactant | 2-[5-(6,7-dihydro-5H-1,4,8a-triaza-s-indacen-8-yl)-benzofuran-2-yl]-ethanol | 0.91 mmol, 200 mg | N1=CC=C2N=C3CCCC3=C(N12)C=1C=CC2=C(C=C(O2)CCO)C1 | C19H17N3O2
reactant | triethylamine | 3 mmol, 303 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 4.56 mmol, 525 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | Water | O | H2O
solvent | CH2Cl2 | 10 ml | C(Cl)Cl | CH2Cl2
product | methanesulfonic acid 2-[5-(6,7-dihydro-5H-1,4,8a-triaza-s-indacen-8-yl)-benzo-furan-2-yl]-ethyl ester | N1=CC=C2N=C3CCCC3=C(N12)C=1C=CC2=C(C=C(O2)CCOS(=O)(=O)C)C1 | C20H19N3O4S
